US09315521B2
To a solution of ethyl 3-bromo-5-chloropyridine-4-carboxylate (5.84 g, 22.08 mmol) in anhydrous dioxane (40 mL) at room temperature was added (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (II) (323 mg, 0.441 mmol). Then, diethylzinc (2.72 g, 18 mL, 22.09 mmol, 15% solution in toluene) was added dropwise and the reaction was heated at 70° C. for 45 minutes. The reaction mixture was cooled to room temperature and then was quenched with MeOH. The resulting mixture was extracted with ethyl acetate (2×100 mL), and the organic layer was washed with water, 0.1 N HCl, and brine. The organic layer was then dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated, and the residue was purified by CombiFlash using 0-30% ethyl acetate and hexane to provide ethyl 5-chloro-3-ethylpyridine-4-carboxylate as a pale yellow oil (2.59 g, 55% yield); 1H NMR (400 MHz, CDCl3): δ 1.25 (t, 3H), 1.45 (t, 3H), 2.65 (q, 2H), 4.47 (q, 2H), 8.41 (s, 1H), 8.49 (s, 1H); M+214.5.

reactant | ethyl 3-bromo-5-chloropyridine-4-carboxylate | 22.08 mmol, 5.84 g | BrC=1C=NC=C(C1C(=O)OCC)Cl | C8H7BrClNO2
reactant | diethylzinc | 22.09 mmol, 18 mL, 2.72 g | C(C)[Zn]CC
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | ethyl 5-chloro-3-ethylpyridine-4-carboxylate | 2.59 g, 55% yield | ClC=1C(=C(C=NC1)CC)C(=O)OCC | C10H12ClNO2
